************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G2_OAI21_N1
* View Name:     schematic
* Netlisted on:  Feb 23 15:41:30 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/rules_N1/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G2_OAI21_N1
* View Name:    schematic
************************************************************************

.SUBCKT G2_OAI21_N1 A B C Vdd Vss Z
*.PININFO A:I B:I C:I Z:O Vdd:B Vss:B
XI5 Z Vdd A C Vss / TIGFET_PCELL_SP15CP15_N1
XI7 Z Vss C Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI6 Z Vss B A Vdd / TIGFET_PCELL_SP15CP15_N1
XI1 Z Vdd B C Vss / TIGFET_PCELL_SP15CP15_N1
.ENDS

